US06153786
0.42 g (0.36 mmol) of tetrakis(triphenylphosphine)palladium(0), 20 mg (0.16 mmol) of 4-dimethylamino-pyridine and 2.87 g (18.5 mmol) of 1,2,2,6,6-penta-methylpiperidine are introduced into 30 ml of dichloromethane in a 60 ml autoclave under argon. Then 10 bar of acetylene are injected, and the autoclave is heated to 40° C. 5 g (36.6 mmol) of n-butyl chloroformate are pumped in over the course of 10 min, and then acetylene is further injected to 20 bar. The amount of acetylene taken up is replenished hourly over the course of 24 h, and, after cooling, the reaction discharge is flushed with nitrogen and the reaction mixture is distilled. n-Butyl propiolate is isolated in 85% yield.

reactant | 1,2,2,6,6-penta-methylpiperidine | 18.5 mmol, 2.87 g | CN1C(CCCC1(C)C)(C)C | C10H21N
reactant | acetylene | C#C | C2H2
reactant | n-butyl chloroformate | 36.6 mmol, 5 g | ClC(=O)OCCCC | C5H9ClO2
catalyst | 4-dimethylamino-pyridine | 0.16 mmol, 20 mg | CN(C1=CC=NC=C1)C | C7H10N2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.36 mmol, 0.42 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | n-Butyl propiolate | 85% yield | C(C#C)(=O)OCCCC | C7H10O2
